US03953411
4-Anilinophenyl crotonate was prepared by adding a solution of 11.5 grams of crotonyl chloride in 50 milliliters of benzene to a solution of the sodium salt of 4-anilinophenol which was prepared by dissolving 18.5 grams of 4-anilinophenol in a solution of 4 grams of sodium hydroxide in 100 milliliters of ethanol. The addition was accomplished in 30 minutes and the reaction mixture was stirred for 1 hour. The mixture was then poured into 150 milliliters of water. The organic layer was separated, washed three times with 10 percent sodium hydroxide solution and once with water, dried over anhydrous sodium sulfate, then allowed to evaporate. The residue was recrystallized from hexane yielding 13.3 grams of product which melted at 73°-76° C.

reactant | crotonyl chloride | 11.5 grams | C(\C=C\C)(=O)Cl | C4H5ClO
reactant | sodium | [Na] | Na
reactant | 4-anilinophenol | N(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H11NO
reactant | 4-anilinophenol | 18.5 grams | N(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H11NO
reactant | water | 150 milliliters | O | H2O
solvent | benzene | 50 milliliters | C1=CC=CC=C1 | C6H6
solvent | sodium hydroxide | 4 grams | [OH-].[Na+]
solvent | ethanol | 100 milliliters | C(C)O | C2H6O
product | 4-Anilinophenyl crotonate | C(\C=C\C)(=O)OC1=CC=C(C=C1)NC1=CC=CC=C1 | C16H15NO2
